US07294644B2
5-(2-Chloro-5-trifluoromethyl-phenyl)-1-((1SR,2RS)-2-hydroxy-cyclohexylmethyl)-2-methyl-1H-pyrrole-3-carboxylic acid cyclohexylamide
The title compound was synthesized in analogy to Example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-(2-chloro-5-trifluoromethyl-phenyl)-ethanone as compound of formula S, trans-2-aminomethyl-1-cyclohexanol as R3—(CH2)m—NH2 and cyclohexylamine as R1R2NH, MS (ISP) 497.4 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-(2-chloro-5-trifluoromethyl-phenyl)-ethanone | BrCC(=O)C1=C(C=CC(=C1)C(F)(F)F)Cl | C9H5BrClF3O
reactant | trans-2-aminomethyl-1-cyclohexanol | NC[C@H]1[C@@H](CCCC1)O | C7H15NO
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 5-(2-Chloro-5-trifluoromethyl-phenyl)-1-((1SR,2RS)-2-hydroxy-cyclohexylmethyl)-2-methyl-1H-pyrrole-3-carboxylic acid cyclohexylamide | C1(CCCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=CC(=C1)C(F)(F)F)Cl)CC1C(CCCC1)O)C | C26H32ClF3N2O2
